US07385059B2
Thionyl chloride (2.90 ml, 39.8 mmol) was slowly added to a mixture of 4-nitro-3-pyrazolecarboxylic acid (5.68 g, 36.2 mmol) in EtOH (100 ml) at ambient temperature and the mixture stirred for 48 h. The mixture was reduced in vacuo and dried through azeotrope with toluene to afford 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester as a white solid (6.42 g, 96%). (1H NMR (400 MHz, DMSO-d6) δ 14.4 (s, 1H), 9.0 (s, 1H), 4.4 (q, 2H), 1.3 (t, 3H)).

reactant | Thionyl chloride | 39.8 mmol, 2.90 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-nitro-3-pyrazolecarboxylic acid | 36.2 mmol, 5.68 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | EtOH | 100 ml | CCO | C2H6O
product | 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester | 6.42 g, 96% | C(C)OC(=O)C1=NNC=C1[N+](=O)[O-] | C6H7N3O4
